US05114936
To a solution consisting of 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one (5.80 g) and dimethylformamide (57.0 ml) was added 2-methylimidazole (3.30 g), diisopropylethyl amine (10.5 ml) and sodium iodide (9.04 g) at room temperature with stirring. The reaction was flushed with nitrogen and warmed at 76° C. for 1 hour. Upon cooling to room temperature, dilute aqueous sodium bicarbonate and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous layer extracted twice with ethyl acetate and once with ether. The combined organic layers were washed with brine and concentrated to give the crude product. Drying was accomplished by azeotroping with benzene. Purification via flash column chromatography (silica gel, 2% triethylamine/0-20% methanol/ether) afforded 2.70 g (40%) of 6,7-dihydro-5-[3-(2-methyl-1H-imidazol-1-yl)-propyl]-3-phenyl -1,2-benzisoxazol-4(5H)-one. Recrystallization from dichloromethane/ether/pentane gave the product, m.p. 97°-99° C.

reactant | 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one | 5.80 g | ClCCCC1CCC2=C(C(=NO2)C2=CC=CC=C2)C1=O | C16H16ClNO2
reactant | 2-methylimidazole | 3.30 g | CC=1NC=CN1 | C4H6N2
reactant | diisopropylethyl amine | 10.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 9.04 g | [I-].[Na+]
solvent | dimethylformamide | 57.0 ml | CN(C=O)C | C3H7NO
product | 6,7-dihydro-5-[3-(2-methyl-1H-imidazol-1-yl)-propyl]-3-phenyl -1,2-benzisoxazol-4(5H)-one | 2.70 g, 40% | CC=1N(C=CN1)CCCC1CCC2=C(C(=NO2)C2=CC=CC=C2)C1=O | C20H21N3O2
